US07375227B2
431B. 4-Benzyl-piperidine-4-carboxylic acid ethyl ester
1,4-Dibenzyl-piperidine-4-carboxylic acid ethyl ester (11.8 g, 35 mmol) is dissolved in MeOH (200 mL) and 1M aqueous HCl (40 mL) and Pd—C (10%, 1 g) are added. The mixture is hydrogenated (7 bar, 70° C.) for 15 h. The catalyst is filtered off and the solvent evaporated to provide the title compound.

reactant | 1,4-Dibenzyl-piperidine-4-carboxylic acid ethyl ester | 35 mmol, 11.8 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C22H27NO2
reactant | HCl | 1M, 40 mL | Cl | ClH
solvent | MeOH | 200 mL | CO | CH4O
catalyst | Pd—C | 1 g | [Pd] | Pd
product | 4-Benzyl-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(CCNCC1)CC1=CC=CC=C1 | C15H21NO2
